US07622471B2
1-(6-Isopropoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid
The general procedure of Referential Example 125 was repeated through use of the 1-(6-chloro-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid ethyl ester (1.05 g) prepared in Referential Example 123-3) and isopropanol, to thereby give the title compound as a powder (840 mg, 81%).

reactant | 1-(6-chloro-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid ethyl ester | 1.05 g | C(C)OC(=O)C1=NN(C(=C1)C1=CC=CC=C1)C=1C=NC(=CC1)Cl | C17H14ClN3O2
reactant | isopropanol | C(C)(C)O | C3H8O
product | 1-(6-Isopropoxy-3-pyridyl)-5-phenylpyrazole-3-carboxylic acid | 840 mg, 81% | C(C)(C)OC1=CC=C(C=N1)N1N=C(C=C1C1=CC=CC=C1)C(=O)O | C18H17N3O3
